US08293746B2
Step 11.3: (2-Chloro-6-iodo-3,5-dimethoxy-phenyl)-carbamic acid tert-butyl ester
A solution of sulfurylchloride (0.92 ml, 11.0 mmol, 1.16 equiv) in DCM (20 mL) is added dropwise (30 min) to a cold (−15° C.) solution of (2-iodo-3,5-dimethoxy-phenyl)-carbamic acid tert-butyl ester (3.6 g, 9.49 mmol) in THF (48 ml), under an argon atmosphere. The reaction mixture is allowed to stir for 1 h at −15° C. and then poured onto a mixture of ice/H2O (100 mL), a saturated aqueous solution of NaHCO3 (80 ml), and EtOAc (100 mL). The layers are separated and the aqueous phase is extracted with EtOAc (2×100 mL). The combined organic phase is washed with H2O (3×60 mL) and brine (60 mL), dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel column chromatography (DCM) followed by crystallization from DCM/Hex to afford the title compound. ESI-MS: 411.9, 413.9 [M-H]−, TLC: Rf=0.18 (DCM/Hex, 7:3).

reactant | sulfurylchloride | 11.0 mmol, 0.92 ml, 1.16 equiv | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | (2-iodo-3,5-dimethoxy-phenyl)-carbamic acid tert-butyl ester | 9.49 mmol, 3.6 g | C(C)(C)(C)OC(NC1=C(C(=CC(=C1)OC)OC)I)=O | C13H18INO4
reactant | NaHCO3 | 80 ml | C(=O)(O)[O-].[Na+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 48 ml | C1CCOC1 | C4H8O
product | (2-Chloro-6-iodo-3,5-dimethoxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C(=CC(=C1I)OC)OC)Cl)=O | C13H17ClINO4
